US05157026
7-Methyl-2-propyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine-4-oxide
A solution of 7-Methyl-2-propyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine (9 mg) and m-chloroperoxybenzoic acid (6 mg) CHCl3 (2 mL) was heated to reflux for 2 hours. Concentration and purification (SiO2, 80:20:1 CH2Cl2 /MeOH/NH4OH) gave 4 mg of the title compound as a solid.

reactant | 7-Methyl-2-propyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine | 9 mg | CC1=C2C(=NC=C1)N(C(=N2)CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2 | C24H23N7
reactant | m-chloroperoxybenzoic acid | 2 mL, 6 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
product | 7-Methyl-2-propyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine-4-oxide | 4 mg | CC1=C2C(=[N+](C=C1)[O-])N(C(=N2)CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2 | C24H23N7O
